US09024027B2
To a solution of methyl 2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.300 g, 0.749 mmol) in THF (5 ml), aqueous 1N LiOH (1.124 ml, 1.124 mmol) was added, and the mixture was stirred at room temperature for 30 minutes. The mixture was acidified with 1N HCl and extracted with ethyl acetate; the organic phase was washed several times with 1N HCl, dried over sodium sulfate and evaporated to dryness affording 2-(6-(N-(tert-butoxycarbonyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid (0.234 g, 0.606 mmol, 81% yield). MS/ESI+ 386.9 [MH]+. This product was used without any further purification.

reactant | methyl 2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 0.749 mmol, 0.300 g | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C16H20N2O8S
reactant | LiOH | 1.124 mmol, 1N, 1.124 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(6-(N-(tert-butoxycarbonyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid | 0.606 mmol, 0.234 g, 81% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1 | C15H18N2O8S
